datasets/10k_Mayr_OG.csv
SMILES Labelled
"CSC[C:20](C)=[O:21].C[C:11]1=[N:10]CCC[NH:12]1>>CSC[C:20](C)([N:10]1CCC[NH+:12]=[C:11]1C)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N:10]1.CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C3=CC=CC=C3)[C:24](=[O:25])[C:33](C3=CC=CC=C3)=[CH:32]2)[CH:46]=[CH:45]1>>CC(C)[C@H]1CC[N:62]2C3=C(C=CC=C3)[S:72][C:61]2=[N+:10]1[CH:20]([C:21]1=[CH:22][C:23](C2=CC=CC=C2)=[C:24]([O-:25])[C:33](C2=CC=CC=C2)=[CH:32]1)[C:41]1=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[N:33](C)[C:22]([CH:21]=[CH2:20])=[O:23].[H:10][C:11]([C:12]1=[CH:13][CH:14]=[CH:15][CH:64]=[CH:63]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1>>C[N:33](C)[C:22](=[CH:21][CH2:20][H:10])[O-:23].[C:11](=[C:12]1[CH:13]=[CH:14][CH+:15][CH:64]=[CH:63]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:84]=[CH:83]1)[C:92]1=[CH:93][CH:94]=[CH:95][CH:104]=[CH:103]1 10,11=10,20;12,13=11,12;14,15=13,14;20,21=21,22;22,23=23"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C(C#N)C=C2)=[C:11]([O-:12])[O:82]1.C[C:20]1=[CH:21][C:22](=[O:23])CC1>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=C(C#N)C=C2)([C:20]2(C)CC[C:22]([O-:23])=[CH:21]2)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C28.CO[C:64]1=[CH:63][C:62]2=[C:61]([N:12]([C:83](=[O:84])[O:94]C(C)(C)C)[C:11]([B-:72](F)(F)F)=[CH:10]2)[CH:66]=[CH:65]1>>CO[C:64]1=[CH:63][C:62]2=[C:61]([N+:12]([C:83](=[O:84])[O:94]C(C)(C)C)=[C:11]([B-:72](F)(F)F)[CH:10]2[CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[CH:66]=[CH:65]1 10,11=10,20;12=11,12"
F[C:53]1=[CH:54][CH:55]=[CH:56][C:51]([C+:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[CH:52]1.[O-][C:62]([CH:61]1CCC[NH:10]1)=[O:63]>>[O-][C:62]([CH:61]1CCC[NH+:10]1[C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][C:53](F)=[CH:54][CH:55]=[CH:56]1)=[O:63] 10=20
"CN1CC[N:14]2CCN(C)[C:62]3=[CH:61][N:10]=[CH:11][C:12]1=[C:13]23.FC(F)(F)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]2)[CH:36]=[CH:35]1>>CN1CC[N+:14]2=[C:13]3[C:12]1=[CH:11][N:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[C:44](C(F)(F)F)[CH:45]=[CH:46]1)[CH:61]=[C:62]3N(C)CC2 10,11=10,20;12,13=11,12;14=13,14"
"CC(C)(C)[O:94][C:83]([N:12]1[C:11]([B-:72](F)(F)F)=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]=[O+:21]C)[CH:35]=[CH:36]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]2[C:11]([B-:72](F)(F)F)=[N+:12]([C:83](=[O:84])[O:94]C(C)(C)C)[C:61]3=[C:62]2[CH:63]=[CH:64][CH:65]=[CH:66]3)[O:21]C)[CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"C1=CC=C([N:31]=[C:20]=[S:21])C=C1.C1=C[C:72]2=[C:73](C=C1)[C:61](=[O:62])[N:10]=[C:11]2[O-:12]>>C1=CC=C([N:31]=[C:20]([N:10]2[C:11](=[O:12])[C:72]3=[C:73](C=CC=C3)[C:61]2=[O:62])[S-:21])C=C1 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:11](=[CH2:10])[O:12][Si:63](C)(C)C.[O+]#C[Fe-2:21]1234(C#[O+])(C#[O+])C5C=C[CH:20]1C2C3C54>>CC(C)(C)[C:11]([CH2:10][CH:20]1C=CC2C3C4C1[Fe-3:21]234(C#[O+])(C#[O+])C#[O+])=[O+:12][Si:63](C)(C)C 10,11=10,20;12=11,12;20,21=21"
"CC1=CC=[C:10]([B-:11]2(C3=CC(C(F)(F)F)=CC(C(F)(F)F)=C3)[O:12]CC[O:62]2)S1.C[N+:23]1=[CH:22]/[C:21](=[CH:20]/[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)C2=C1C=CC=C2>>CC1=CC=[C:10]([CH:20]([C:21]2=[CH:22][N:23](C)C3=C2C=CC=C3)[C:31]2=[CH:32][N:33](C)[C:42]3=[C:41]2C=CC=C3)S1.FC(F)(F)C1=CC(C(F)(F)F)=CC([B-:11]2=[O+:12]CC[O:62]2)=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=CC=C([Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2CCC[NH:10]2)C=C1.CO[C:44]1=[CH:43][CH:42]=[C:41]([CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([NH+:10]2CCCC2[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[CH:46]=[CH:45]1 10=20
"C[O:12][CH:11]([H:10])[O:62]C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>C[O+:12]=[CH:11][O:62]C.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][CH:43]=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20;12=11,12"
"CO[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)[CH:32]=[C:33](OC)[C:24]1=[O:25].C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])[CH:72]=[CH:73]1>>CO[C:23]1=[C:24]([O-:25])[C:33](OC)=[CH:32][C:21]([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][CH:63]=[C:64]([N:65](C)C)[CH:73]=[CH:72]2)[C:41]2=[CH:42][CH:43]=[C:44](N(C)C)[CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
